US08835451B2
A. {4-[4-(3-Methoxy-5-nitro-pyridin-2-yl)-phenyl]cyclohexyl}-acetic acid methyl ester
To a solution of 2-chloro-3-methoxy-5-nitro-pyridine (0.10 g, 0.53 mmol, 1.0 equiv) and {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (0.2 g, 0.56 mmol, 1.05 equiv) in 5 Ml DME was added 0.5 Ml saturated potassium carbonate solution and 10 mg Pd(PPh3)4 catalyst. The reaction was heated to 100° C. for 2 h. The crude reaction mixture was then concentrated in vacuo and then loaded directly onto a silica gel column. Elution with 30% EtOAc/hexanes afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.12-1.19 (m, 2H) 1.15 (d, J=13.14 Hz, 1H) 1.46-1.59 (m, 1H) 1.51 (dd, J=112.38, 2.78 Hz, 2H) 1.81 (d, J=5.56 Hz, 4H) 2.26 (d, J=6.82 Hz, 2H) 3.61 (s, 3H) 4.00 (s, 3H) 7.36 (d, J=8.34 Hz, 2H) 7.90 (d, J=8.34 Hz, 2H) 8.20 (d, J=2.02 Hz, 1H) 9.05 (s, 1H); (M+H)+385.1.

reactant | 2-chloro-3-methoxy-5-nitro-pyridine | 0.53 mmol, 0.10 g, 1.0 equiv | ClC1=NC=C(C=C1OC)[N+](=O)[O-] | C6H5ClN2O3
reactant | {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.56 mmol, 0.2 g, 1.05 equiv | COC(CC1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H31BO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | {4-[4-(3-Methoxy-5-nitro-pyridin-2-yl)-phenyl]cyclohexyl}-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1OC)[N+](=O)[O-])=O | C21H24N2O5
